US07511050B2
Step D: 3-2-[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]ethyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
A mixture of 1H-purine-2,6-dione 2-hydrazone (680 mg, 2.88 mmol) and 3-[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]propanal (900 mg, 3.88 mmol) in ethanol (20 mL) was refluxed for 4 hours. The reaction mixture was concentrated and the residue was mixed with acetic acid (10 mL). The resulting mixture was refluxed for 3 hours. The reaction mixture was concentrated and then diluted with water and extracted with EtOAc (3×). The combined organic layers was dried over Na2SO4, filtered, concentrated and purified by preparative LCMS to give the desired product (830 mg, 64% yield). LCMS calculated for C22H25N8O3 (M+H): 449.2; found: 449.2.

reactant | 1H-purine-2,6-dione 2-hydrazone | 2.88 mmol, 680 mg | N1C(N=C2N=CN=C2C1=O)=NN | C5H4N6O
reactant | 3-[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]propanal | 3.88 mmol, 900 mg | COC1=CC=C(C=C1)C1=NC(=NO1)CCC=O | C12H12N2O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-2-[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]ethyl-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 830 mg, 64% yield | COC1=CC=C(C=C1)C1=NC(=NO1)CCC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | C22H24N8O3
